US07501426B2
2-chloromethyl-4,5-dimethyl-quinazoline
Prepared by reacting 1-(2-amino-6-methyl-phenyl)-ethanone with chloroacetonitrile in dioxane while piping in hydrogen chloride at 30-38° C.

reactant | 1-(2-amino-6-methyl-phenyl)-ethanone | NC1=C(C(=CC=C1)C)C(C)=O | C9H11NO
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | Cl | ClH
product | 2-chloromethyl-4,5-dimethyl-quinazoline | ClCC1=NC2=CC=CC(=C2C(=N1)C)C | C11H11ClN2
